US07678801B2
97a) 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid
To a solution of 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid (30.0 mg, 0.068 mmol) in CH2Cl2 (5.0 ml) was added 3-chlorobenzenecarboperoxoic acid (23 mg. 0.103 mmol). The resultant mixture was stirred at room temperature 10 mins. Flash chromatography (EtOAc/Hex=1:1) then provided the title compound (20 mg, 64%). LC-MS (ES) m/z 456 (M+H)+.

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | 0.068 mmol, 30.0 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)SC)=O | C22H15F2N3O3S
reactant | 3-chlorobenzenecarboperoxoic acid | 0.103 mmol, 23 mg | ClC=1C=C(C=CC1)C(=O)OO | C7H5ClO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 5.0 ml | C(Cl)Cl | CH2Cl2
product | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | 20 mg, 64% | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)S(=O)C)=O | C22H15F2N3O4S
